US08012976B2
9-(4,5-Dimethyl-4H-1,2,4-triazol-3-yl)-8-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (170 mg) in 85% hydrazine monohydrate (1 mL) and methanol (3 mL) was stirred at 25° C. for 3 h. The mixture was purified by prep-HPLC to obtain the title compound as a yellow solid (40 mg, yield: 26%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.23 (s, 3H), 3.38 (s, 3H), 4.78-4.80 (d, J=11.0 Hz, 1H), 4.99-5.02 (d, J=11.0 Hz, 1H), 7.11-7.18 (m, 3H), 7.35-7.40 (m, 2H), 7.47-7.51 (m, 2H), 7.57-7.61 (t, J=7.6 Hz, 1H), 12.19 (s, 1H); LC-MS (ESI) m/z: 377 (M+1)+.

reactant | ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 170 mg | CN1C(=NN=C1C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F | C22H21FN4O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 9-(4,5-Dimethyl-4H-1,2,4-triazol-3-yl)-8-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 40 mg, yield: 26% | CN1C(=NN=C1C)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)F | C20H17FN6O
